datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1.C[C:63]([NH:12][C:11](C1=CCCCC1)=[CH2:10])=[O:64]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH2:10][C:11](C2=CCCCC2)=[NH+:12][C:63](C)=[O:64])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:21](=[O:20])C1.[N:10]1=[CH:11][N-:12][C:61]([CH:72]=[O:73])=[CH:62]1>>C1CC[C-:21]([O:20][N:10]2[CH:11]=[N:12][C:61]([CH:72]=[O:73])=[CH:62]2)C1 10,11=10,20;12=11,12;20,21=21"
"Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1.[O+]#C[Fe-2:63]1234(C#[O+])([CH2:62][CH:11]=[CH2:10])C5C1C2C3C54>>[O+]#C[Fe-2:63]1234(C#[O+])([CH2:62][CH+:11][CH2:10][CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]5=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]5)C5C1C2C3C54 10,11=10,20;20,21=21"
CC[O:92][C:61]([C-:10](OC)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CC[O:92][C:61]([C:10](OC)([CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62] 10=20
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.[CH2:10]=[N+:11]=[N-:12]>>C1CC[N:23]([CH:22]=[CH:21][CH:20]([CH2:10][N+:11]#[N:12])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1=CC=C(N(C2=CC=CC=C2)[C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N(C4=CC=CC=C4)C4=CC=CC=C4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C=C1.CN1C(=O)N(C)[C:72]2=[C:71](C1=O)[N-:10][CH:61]=[N:62]2>>CN1C(=O)N(C)[C:72]2=[C:71](C1=O)[N:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C3=CC=CC=C3)C3=CC=CC=C3)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C3=CC=CC=C3)C3=CC=CC=C3)[CH:45]=[CH:46]1)[CH:61]=[N:62]2 10=20
"C1COC2(CC[C:20](=[O:21])CC2)O1.O=C[C:71]1=[N:72][CH:62]=[CH:61][N-:10]1>>O=C[C:71]1=[N:72][CH:62]=[CH:61][N:10]1[C:20]1([O-:21])CCC2(CC1)OCCO2 10=20;20,21=21"
"COC1=CC=C(/[C:11](=[CH:10]/[S+:61](C)C)[O-:12])C=C1.N#C/[CH:20]=[CH:21]/[C:22]#[N:23]>>COC1=CC=C([C:11]([CH:10]([CH:20](C#N)[CH:21]=[C:22]=[N-:23])[S+:61](C)C)=[O:12])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2-:11][H:10])[CH:73]=[CH:74]1.C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC(C)(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2:11])[CH:73]=[CH:74]1.C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"CC[O:61]/[C:11](=[C:10](\C(C)C)[C:72](=[O:73])[O:83]CC)[O-:12].Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl>>CC[O:61][C:11]([C:10](C(C)C)([C:20]1(Cl)[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl)[C:72](=[O:73])[O:83]CC)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=C([S:71]([CH-:10][N+:61]#[C-:62])(=[O:72])=[O:82])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=CC=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([N+:61]#[C-:62])[S:71](C2=CC=C(C)C=C2)(=[O:72])=[O:82])[C:21](C[N+]2=CC=CC=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
"C1=C[C:63]2=[C:64](C=C1)[C:74]1=[C:73](C=CC=C1)[N:12]2[CH:11]=[CH2:10].Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>Cl[B-:33](Cl)(Cl)[O:21][CH:20]([CH2:10][CH:11]=[N+:12]1[C:63]2=[C:64](C=CC=C2)[C:74]2=[C:73]1C=CC=C2)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21"
"CCCC[P:10](CCCC)CCCC.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)C2=CC=CC=C21>>CCCC[P+:10](CCCC)(CCCC)[CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][C:33]2=[C:34]3N(CCC2)CCC[C:35]3=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[CH-:10]([C:71]([C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)=[O:72])[N+:81](=[O:82])[O-:92]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10]([C:71]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:72])[N+:81](=[O:82])[O-:92])/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C/[C:11](=[CH:10]/[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[O-:12].CC1=CC(C)=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C(C)=C1>>CC1=CC(C)=C([N+]2=C([C:22](=[CH:21][CH:20]([CH:10]([C:11](C)=[O:12])[N+:61]3=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]3)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C(C)=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
